US04517119
(b) N-Benzyloxycarbonyl-L-leucyl-Nε -t-butyloxycarbonyl-L-lysine
A solution of Z-Leu-OSu (122.5 g, 0.338 mol) in DMF (1.2 L) was stirred at 0° in a 3 L, 3-necked round bottom flask fitted with a mechanical stirrer and thermometer. The H-Lys(Boc)-OH (83.26 g, 0.338 mol) was added and the solution stirred at 0° for 15 min. Triethylamine (47.6 mL, 0.338 mol) was added and the reaction mixture stirred at 0° for 30 min and 25° for 3 h. Additional triethylamine (20 mL) was added to maintain the pH at 8 and the reaction mixture stirred for an additional 20 h. At the end of this time, tlc showed some unreacted H-Lys(Boc)-OH and the reaction mixture was stirred for an additional 24 h (pH 8). The reaction mixture was cooled (0°), acidified with glacial acetic acid (160 mL) and evaporated in vacuo. The residue (oil) was dissolved in EtOAc (1.5 L) and washed with 1M citric acid (2×600 mL) and 10% NaCl (2×700 mL), dried (MgSO4), filtered and concentrated in vacuo. The oily residue was dissolved in anhydrous ether (4 L) and dicyclohexylamine (70.7 mL) added followed by the addition of 1 L of ether. After standing in the cold room for 72 h, the white salt was collected and dried to yield 210.8 g (90%); m.p. 125°-128° (recrystallization of an analytical sample increased the m.p. to 143°-146°); [α]D25 -4.17 (c 1, MeOH); Rf 0.39 (CHCl3 :MeOH:AcOH; 85:10:5). The free acid was generated from the DCHA salt in the following manner: Z-Leu-Lys(Boc)-OH.DCHA (201.9 g, 0.291 mol) was stirred in EtOAC:0.5N H2SO4 (2 L:727 mL) until all the solid dissolved. The organic layer was separated, washed with 0.5N H2SO4 (730 mL), dried (MgSO4) and evaporated in vacuo. Yield: 150.6 g (100%); [α]D25 +3.38° (c 1, CHCl3); Rf 0.64 (CHCl3 :MeOH:AcOH; 85:10:5).

reactant | Z-Leu-OSu | 0.338 mol, 122.5 g | N([C@@H](CC(C)C)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C18H22N2O6
reactant | H-Lys(Boc)-OH | 0.338 mol, 83.26 g | N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C11H22N2O4
reactant | DCHA | 0.291 mol, 201.9 g | C1CCC(CC1)NC2CCCCC2 | C12H23N
reactant | H2SO4 | 0.5N, 2 L | OS(=O)(=O)O | H2O4S
solvent | DMF | 1.2 L | CN(C)C=O | C3H7NO
solvent | acetic acid | 160 mL | C(C)(=O)O | C2H4O2
solvent | triethylamine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | Triethylamine | 0.338 mol, 47.6 mL | C(C)N(CC)CC | C6H15N
product | N-Benzyloxycarbonyl-L-leucyl-Nε -t-butyloxycarbonyl-L-lysine | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(C)C)C(=O)N[C@@H](CCCCNC(=O)OC(C)(C)C)C(=O)O | C25H39N3O7
